US07601868B2
ethyl 4-(3-ethoxy-1-methyl-3-oxopropyl)benzoate
Ethyl 4-acetylbenzate (5.00 g, 26.0 mmol) was added to a solution (130 ml) of ethyl diethylphosphonoacetate (6.71 ml, 33.8 mmol) and tert-butoxy potassium (4.38 g, 39.0 mmol) in tetrahydrofuran at 0° C., and the mixture was stirred at room temperature for 16 hrs. Ethyl acetate was added to the reaction mixture, and the mixture was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by NH-silica gel column chromatography (developing solvent; ethyl acetate). The mixture of the obtained oil and 10% palladium carbon (1 g) in ethanol (150 ml) was stirred under a hydrogen atmosphere for 2 hrs, and filtered through celite. The solvent was evaporated under reduced pressure, and the obtained residue was purified by NH-silica gel column chromatography (developing solvent; ethyl acetate) to give the title compound (5.67 g).

reactant | Ethyl 4-acetylbenzate | 26.0 mmol, 5.00 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | ethyl diethylphosphonoacetate | 33.8 mmol, 130 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | tert-butoxy potassium | 39.0 mmol, 4.38 g | C(C)(C)(C)O[K]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 4-(3-ethoxy-1-methyl-3-oxopropyl)benzoate | 5.67 g | C(C)OC(CC(C)C1=CC=C(C(=O)OCC)C=C1)=O | C15H20O4
